US08471027B2
A mixture of 1-(2-phenylamino-pyridin-3-yl)-ethanone (700 mg, 3.3 mmol) in methanol (16.5 mL) at 25° C. was treated with 3-fluoro-4-formyl-benzoic acid methyl ester (601 mg, 3.3 mmol, calculated from 50% mixture) and sodium methoxide in methanol (4.37M, 1.51 mL, 6.6 mmol). The reaction was stirred at 25° C. for 48 h. At this time, the reaction was diluted with water (50 mL), neutralized with a 2N aqueous hydrochloric acid solution, and extracted with methylene chloride (3×75 mL). The combined organics were dried over sodium sulfate and filtered. Silica gel was added to the filtrate, concentrated in vacuo and dried under high vacuum. Flash Chromatography (40 g silica column, 1% methanol/methylene chloride) afforded 3-fluoro-4-[(E)-3-oxo-3-(2-phenylamino-pyridin-3-yl)-propenyl]-benzoic acid methyl ester (1 g, 80.6%) as a red solid.

reactant | 1-(2-phenylamino-pyridin-3-yl)-ethanone | 3.3 mmol, 700 mg | C1(=CC=CC=C1)NC1=NC=CC=C1C(C)=O | C13H12N2O
reactant | 3-fluoro-4-formyl-benzoic acid methyl ester | 3.3 mmol, 601 mg | COC(C1=CC(=C(C=C1)C=O)F)=O | C9H7FO3
reactant | sodium methoxide | C[O-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | methanol | 16.5 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
solvent | methanol | 6.6 mmol, 4.37M, 1.51 mL | CO | CH4O
product | 3-fluoro-4-[(E)-3-oxo-3-(2-phenylamino-pyridin-3-yl)-propenyl]-benzoic acid methyl ester | 1 g, 80.6% | COC(C1=CC(=C(C=C1)\C=C\C(C=1C(=NC=CC1)NC1=CC=CC=C1)=O)F)=O | C22H17FN2O3
